US06174881B1
A solution of 30 g of 7-chloro-2-(3,3-diethoxy-1-hydroxy-2-propyl-amino)-5-(2-fluorophenyl)-3H-1,4-benzodiazepine in 300 ml of glacial acetic acid was heated to reflux temperature for 5 h. After cooling the solvent was removed in a vacuum, the residue was taken up in 300 ml of ethanol, the solution was treated with 150 ml of 2N aqueous sodium hydroxide solution and left te stand at room temperature for 2 h. Then, about 200 ml of ethanol were distilled off at 30° C. in a vacuum. The solution remaining behind was extracted three times with chloroform. The chloroform extracts were washed with saturated sodium chloride solution, then dried over sodium sulphate and evaporated to dryness in a vacuum. The residue (20.5 g) was dissolved in chloroform and chromatographed over 500 g of silica gel. Byproducts (total 4.1 g) were eluted with chloroform containing 0.2% to 1.6% ethanol. 13.0 g of the desired product were eluted with chloroform containing 2.4 to 20% ethanol. After recrystallization from ethyl acetate/diethyl ether there were obtained 11.6 g of 8-chloro-6-(2-fluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 196-199.5° C. After repeated recrystallization from ethyl acetate the m.p. lay at 199-201° C.

reactant | 7-chloro-2-(3,3-diethoxy-1-hydroxy-2-propyl-amino)-5-(2-fluorophenyl)-3H-1,4-benzodiazepine | 30 g | ClC=1C=CC2=C(C(=NCC(=N2)NC(CO)C(OCC)OCC)C2=C(C=CC=C2)F)C1 | C22H25ClFN3O3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-6-(2-fluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 11.6 g | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)CO)C3=C(C=CC=C3)F)C1 | C18H13ClFN3O
